US08357679B2
1-(Cyclopropylmethyl)-3-(4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzoyl)piperazine-1-carbonyl)phenyl)urea
To a solution of 1-(cyclopropylmethyl)-3-(4-(piperazine-1-carbonyl)phenyl)urea (1.654 mmol, 500 mg), 4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzoic acid (1.654 mmol, 476 mg) and triethylamine (4.96 mmol, 0.691 mL, 502 mg) in dichloromethane (50 mL) was added 1-propanephosphonic acid cyclic anhydride (2.480 mmol, 0.738 mL, 789 mg; 50% solution in ethyl acetate). The reaction mixture was stirred for 2 hours then was diluted with ethyl acetate and sodium carbonate (aqueous). The organic layer was separated, dried (magnesium carbonate) and concentrated under reduced pressure. The residue was chromatographed on silica eluting with a gradient of dichloromethane to ethyl acetate to give the title compound (180 mg). MS (ESI) m/z 571.0 [M−H]−

reactant | 1-(cyclopropylmethyl)-3-(4-(piperazine-1-carbonyl)phenyl)urea | 1.654 mmol, 500 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)C(=O)N1CCNCC1 | C16H22N4O2
reactant | 4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzoic acid | 1.654 mmol, 476 mg | FC(C(C(F)(F)F)(O)C1=CC=C(C(=O)O)C=C1)(F)F | C10H6F6O3
reactant | triethylamine | 4.96 mmol, 0.691 mL, 502 mg | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 2.480 mmol, 0.738 mL, 789 mg | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 1-(Cyclopropylmethyl)-3-(4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzoyl)piperazine-1-carbonyl)phenyl)urea | 180 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)C(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)=O | C26H26F6N4O4
